US06107458
To a solution of Ethyl 3-methyl-5-octylbenzo[b]furan-2-carboxylate (1.44 g) in ethanol (20 ml) was added 10% NaOH aqueous solution (2.2 ml), and stirred for 2 hours at ambient temperature, and evaporated under reduced pressure. The residue was adjusted to pH 3.0 with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with brine, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 3-Methyl-5-octylbenzo[b]furan-2-carboxylic acid (1.00 g).

reactant | Ethyl 3-methyl-5-octylbenzo[b]furan-2-carboxylate | 1.44 g | CC=1C2=C(OC1C(=O)OCC)C=CC(=C2)CCCCCCCC | C20H28O3
reactant | NaOH | 2.2 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Methyl-5-octylbenzo[b]furan-2-carboxylic acid | 1.00 g | CC=1C2=C(OC1C(=O)O)C=CC(=C2)CCCCCCCC | C18H24O3
